US08076358B2
Step A: 3-[(2,4,6-Trimethyl-benzylamino)-methyl]-phenol
3-Hydroxy-benzaldehyde (1.22 g, 0.01 mol) and 2,4,6-trimethyl-benzylamine (1.19 g, 0.01 mol) were added to methanol (10 mL) and the resulting mixture was stirred overnight. Sodium borohydride (0.45 g, 0.012 mol) was then added, and stirring was continued one hour. The resulting mixture was acidified with 2N HCl and then neutralized with saturated aqueous NaHCO3 solution to yield a gummy solution. The gummy solution was extracted with EtOAc (3×100 mL). The organic layer was washed with brine, dried over sodium sulfate, and concentrated in vacuo to yield a white solid.

reactant | 3-Hydroxy-benzaldehyde | 0.01 mol, 1.22 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 2,4,6-trimethyl-benzylamine | 0.01 mol, 1.19 g | CC1=C(CN)C(=CC(=C1)C)C | C10H15N
reactant | Sodium borohydride | 0.012 mol, 0.45 g | [BH4-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 3-[(2,4,6-Trimethyl-benzylamino)-methyl]-phenol | CC1=C(CNCC=2C=C(C=CC2)O)C(=CC(=C1)C)C | C17H21NO
